US07205292B2
Step F. 3-(1-t-Butoxycarbonyl-4-piperidinyl)-1,3,4,5-tetrahydro-2H-1,3-benzodiazapin-2-one
Carbonyldiimidazole (8.73 g, 53.8 mmol) was added to a solution of tert-butyl 4-{[2-(2-aminophenyl)ethyl]amino}piperidine-1-carboxylate (17.2 g, 53.8 mmol) in dimethylformamide (200 mL), and stirred at room temperature for 2 h. The reaction was diluted with ethyl acetate and extracted with water, then saturated brine. The crude product was purified by chromatography (silica gel, 0–30% ethyl acetate in methylene chloride gradient elution). The title compound was obtained as a dark solid (4.8 g).

reactant | Carbonyldiimidazole | 53.8 mmol, 8.73 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tert-butyl 4-{[2-(2-aminophenyl)ethyl]amino}piperidine-1-carboxylate | 53.8 mmol, 17.2 g | NC1=C(C=CC=C1)CCNC1CCN(CC1)C(=O)OC(C)(C)C | C18H29N3O2
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-t-Butoxycarbonyl-4-piperidinyl)-1,3,4,5-tetrahydro-2H-1,3-benzodiazapin-2-one | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C19H27N3O3
